US06384072B1
To a solution of ethyl {[(5RS,6RS)-6-(N,N -diphenylcarbamoyloxy)methyl-5-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten- 1-yl]oxy}acetate (179 mg) in CHCl3 (15 ml) was added activated MnO2 (636 mg). The mixture was refluxed for 30 minutes. Then after addition of activated MnO2 (636 mg), the mixture was refluxed for 1.5 hours. Furthermore, the mixture was added with activated MnO2 (636 mg) and then refluxed for 1 hour. After cooling, the mixture was filtered. The filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 2:1) to give ethyl {[6-(N,N-diphenylcarbamoyloxy) methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate (151.1 mg) as an oil.

reactant | ethyl {[(5RS,6RS)-6-(N,N -diphenylcarbamoyloxy)methyl-5-hydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten- 1-yl]oxy}acetate | 179 mg | C1(=CC=CC=C1)N(C(=O)OCC1C(C2=C(CCC1)C(=CC=C2)OCC(=O)OCC)O)C2=CC=CC=C2 | C29H31NO6
solvent | CHCl3 | 15 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 636 mg | O=[Mn]=O
catalyst | MnO2 | 636 mg | O=[Mn]=O
catalyst | MnO2 | 636 mg | O=[Mn]=O
product | ethyl {[6-(N,N-diphenylcarbamoyloxy) methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate | 151.1 mg | C1(=CC=CC=C1)N(C(=O)OCC1C(C2=C(CCC1)C(=CC=C2)OCC(=O)OCC)=O)C2=CC=CC=C2 | C29H29NO6
